US07217730B2
3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole-4-carboxylic acid
To a suspension of KH (1.85 g of 30 wt % in oil, 13.85 mmol) in THF (100 mL) was added a solution of 4-bromo-3-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole (3.40 g, 9.24 mmol) in THF (10 mL) at 0° C. After stirring for 40 minutes, the solution was cooled to −78° C. and tert-BuLi (10.9 mL of 1.7 M in pentane, 18.47 mmol), precooled to −78° C., was added. After stirring for 1 hour at −78° C., the reaction mixture was transferred to the flask containing anhydrous CO2 (dry ice, 100 g) via cannula under N2 atmosphere at −78° C. The suspension was warmed to room temperature very slowly using cold bath. The mixture was diluted with EtOAc (200 mL) and the organic solution was washed with 1 N HCl (2×200 mL), H2O (200 mL) and brine (200 mL). The organic phase was dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 15% EtOAc in hexanes) to give 0.74 g (41% based on the recovered SM) of title compound as a white solid. 1H NMR (CDCl3): 300 MHz δ 8.26 (bs, 1H), 7.84 (d, J=7.56 Hz, 1H), 7.32 (d, J=2.46 Hz, 1H), 7.12 (d, J=7.56 Hz, 1H), 3.98 (t, J=6.39 Hz, 2H), 3.33 (t, J=6.39 Hz, 2H), 2.63 (s, 3H), 0.89 (s, 9H), −0.08 (s, 6H).

reactant | 4-bromo-3-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole | 9.24 mmol, 3.40 g | BrC1=C2C(=CNC2=C(C=C1)C)CCO[Si](C)(C)C(C)(C)C | C17H26BrNOSi
reactant | tert-BuLi | 18.47 mmol, 1.7 M, 10.9 mL | [Li]C(C)(C)C
reactant | CO2 | 100 g | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole-4-carboxylic acid | C(C)(C)(C)[Si](OCCC1=CNC=2C(=CC=C(C12)C(=O)O)C)(C)C | C18H27NO3Si
